US07005437B2
a) 3-(N-ethoxycarbonylmethyl-propargylamino)-benzonitrile
A mixture of 0.78 g (5 mmol) of 3-propargylamino-benzonitrile, 0.55 ml (5 mmol) of ethyl bromoacetate and 0.2 g (5 mmol) of magnesium oxide are stirred in 20 ml of dimethylacetamide for 6 days at 75° C. Then the mixture is filtered, the filtrate is diluted with ethyl acetate and washed with water. The combined organic extracts are dried and concentrated by evaporation. The residue is chromatographed on silica gel, eluting with dichloromethane.

reactant | 3-propargylamino-benzonitrile | 5 mmol, 0.78 g | C(C#C)NC=1C=C(C#N)C=CC1 | C10H8N2
reactant | ethyl bromoacetate | 5 mmol, 0.55 ml | BrCC(=O)OCC | C4H7BrO2
reactant | magnesium oxide | 5 mmol, 0.2 g | [O-2].[Mg+2]
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 3-(N-ethoxycarbonylmethyl-propargylamino)-benzonitrile | C(C)OC(=O)CN(C=1C=C(C#N)C=CC1)CC#C | C14H14N2O2
